US07538121B2
Methyl 4′-fluoro-2-hydroxy-1,1′-biphenyl-4-carboxylate
Methyl 4-bromo-3-hydroxybenzoate (2.1 g, 9.0 mmol), 4-fluorophenyl-boronic acid (2.52 g, 18 mmol), tetrakis(triphenylphosphine)palladium (0.52 g, 0.45 mmol), and 2M aqueous sodium carbonate solution (11 ml) in ethanol/toluene (1:5, 30 ml) were heated at reflux overnight. After cooling the solvent was removed in vacuo and the residue dissolved in EtOAc then washed with sat. aq. sodium bicarbonate and dried over MgSO4. The crude product was purified by column chromatography eluting with 1% MeOH/DCM giving the title compound as a solid (1.9 g). MS(ES): MH+ 247, M-H+ 245.

reactant | Methyl 4-bromo-3-hydroxybenzoate | 9.0 mmol, 2.1 g | BrC1=C(C=C(C(=O)OC)C=C1)O | C8H7BrO3
reactant | 4-fluorophenyl-boronic acid | 18 mmol, 2.52 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2M, 11 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol toluene | 30 ml | C(C)O.C1(=CC=CC=C1)C
catalyst | tetrakis(triphenylphosphine)palladium | 0.45 mmol, 0.52 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 4′-fluoro-2-hydroxy-1,1′-biphenyl-4-carboxylate | FC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)O | C14H11FO3
